US05658903
a) 1-(1-Ethoxycarbonyl-4-piperidinyl)-4-(4-fluorophenyl)-5-acetylimidazole
To a solution of pyruvaldehyde (40% w/w solution in water, 6.6 mL, 7.8 g, 0.058 mol) in DMSO (100 mL) at ambient temperature was added ethyl 4-aminopiperidinecarboxylate (10 g, 0.058 mol). After 10 min, α-(p-toluenesulfonyl)-4-fluorobenzylisonitrile (8.4 g, 0.029 mol) and K2CO3 (8.0 g, 0.058 mol) were added. After stirring for 18 h, the solution was partition between EtOAc and 3N HCl and the organic phase was washed with 3N HCl. The combined aqueous layers were neutralized with solid K2CO3 and extracted twice with EtOAc. The combined organics were washed with brine, dried (MgSO4) and concentrated in vacuo to give a brown oil which solidified upon standing. Flash chromatography eluting consecutively with 33%, 50% and 67% EtOAc in hexanes followed by trituration with ether afforded the title compound as a white solid; yield 3.5 g (23%).

reactant | pyruvaldehyde | 0.058 mol, 6.6 mL, 7.8 g | C(C(=O)C)=O | C3H4O2
reactant | ethyl 4-aminopiperidinecarboxylate | 0.058 mol, 10 g | NC1CCN(CC1)C(=O)OCC | C8H16N2O2
reactant | α-(p-toluenesulfonyl)-4-fluorobenzylisonitrile | 0.029 mol, 8.4 g | C1(=CC=C(C=C1)S(=O)(=O)C(C1=CC=C(C=C1)F)[N+]#[C-])C | C15H12FNO2S
reactant | K2CO3 | 0.058 mol, 8.0 g | C(=O)([O-])[O-].[K+].[K+]
solvent | DMSO | 100 mL | CS(=O)C | C2H6OS
product | 1-(1-Ethoxycarbonyl-4-piperidinyl)-4-(4-fluorophenyl)-5-acetylimidazole | C(C)OC(=O)N1CCC(CC1)N1C=NC(=C1C(C)=O)C1=CC=C(C=C1)F | C19H22FN3O3
